US07470680B2
3-(piperidin-4-yl)-4,5-dihydro-1H-pyrido[3,2-d][1,3]diazepin-2(3H)-one dihydrochloride.
tert-Butyl 4-(2-oxo-4,5-dihydro-1H-pyrido[3,2-d][1,3]diazepin-3(2H)-yl)piperidine-1-carboxylate (0.814 g, 2.350 mmol) was dissolved in dichloromethane (8.0 ml). Trifluoroacetic acid (2.0 ml, 26.0 mmol) was added to the mixture at room temperature. The mixture was stirred at room temperature for 4 hours. All volatiles were removed and the residue was dissolved in dichloromethane (10 mL). 2M Hydrogen chloride in diethyl ether (4.11 ml, 8.22 mmol) was added to the mixture. The reaction was stirred at room temperature for 15 minutes and all volatiles were removed. The resulting off-white solid was washed 4 times with anhydrous diethyl ether. Title compound was obtained as white solid in 88% yield. 1H NMR (500 MHz, D2O) δ ppm 8.28 (d, J=4.88 Hz, 1 H) 8.05 (d, J=8.24 Hz, 1 H) 7.74-7.82 (m, 1 H) 4.30-4.41 (m, 1 H) 3.71-3.78 (m, 2 H) 3.51-3.62 (m, 2 H) 3.34-3.41 (m, 2 H) 3.09-3.20 (m, 2 H) 1.98-2.14 (m, 4 H).

reactant | tert-Butyl 4-(2-oxo-4,5-dihydro-1H-pyrido[3,2-d][1,3]diazepin-3(2H)-yl)piperidine-1-carboxylate | 2.350 mmol, 0.814 g | O=C1N(CCC2=C(N1)C=CC=N2)C2CCN(CC2)C(=O)OC(C)(C)C | C18H26N4O3
reactant | Trifluoroacetic acid | 26.0 mmol, 2.0 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Hydrogen chloride | 2M | Cl | ClH
reactant | diethyl ether | 8.22 mmol, 4.11 ml | C(C)OCC | C4H10O
solvent | dichloromethane | 8.0 ml | ClCCl | CH2Cl2
product | 3-(piperidin-4-yl)-4,5-dihydro-1H-pyrido[3,2-d][1,3]diazepin-2(3H)-one dihydrochloride | 88% yield | Cl.Cl.N1CCC(CC1)N1C(NC2=C(CC1)N=CC=C2)=O | InChI=1S/C13H18N4O.2ClH/c18-13-16-12-2-1-6-15-11(12)5-9-17(13)10-3-7-14-8-4-10;;/h1-2,6,10,14H,3-5,7-9H2,(H,16,18);2*1H
